US04435588
Trifluoroacetic anhydride (8.4 g, 0.04 mole) was added portionwise to a solution of 2-hydroxyethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate (7 g, 0.017 mole) and 50 ml of ether. After holding at 30°-35° C. for an hour, the solution was allowed to stand at room temperature overnight. Excess trifluoroacetic anhydride was removed and 300 ml of ether was added. The ethereal solution was washed three times with water, dried over CaSO4 and concentrated to an oil. Kugelrohr distillation afforded 3.6 g of pure 2-(trifluoroacetoxy)ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate as a gumming material (yield: 42.2%); nmr (CDCl3) δ 4.62 (s, 4H), 7.02-8.19 (m, 6H); ir (CHCl3) 1752, 1803 Cm-1.

reactant | Trifluoroacetic anhydride | 0.04 mole, 8.4 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-hydroxyethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 0.017 mole, 7 g | ClC1=C(OC=2C=CC(=C(C(=O)OCCO)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C16H11ClF3NO6
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-(trifluoroacetoxy)ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 3.6 g | ClC1=C(OC=2C=CC(=C(C(=O)OCCOC(C(F)(F)F)=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C18H10ClF6NO7
